US09127024B2
3-Acetoxy-4-bromo-2-methylbenzoic acid
Water (12 mL) was added to 4-bromo-3-hydroxy-2-methylbenzoic acid (5 g, 21.6 mmol) in an Erlenmeyer flask and cooled in an ice bath. 50% Aqueous NaOH solution (8.06 g mixed with 12 mL water, 108 mmol) was added and the mixture stirred for few minutes until the solution was clear. Acetic anhydride (2.04 mL, 21.6 mmol) was added drop wise until pH 5 was reached; by that time the reaction mixture became a thick slurry having an off white color. The mixture was stirred overnight at room temperature. LCMS showed a major peak with the expected product mass and a minor polar peak of the starting material. The pH was adjusted to 2 and the precipitate was filtered. LCMS of the precipitate showed it as a 3:1 mixture of the expected acetate and the starting phenol. The filtrate also contained some product, so combined everything, dried and adsorbed on silica and subjected to silica gel column chromatography using ISCO. The main peak was collected, the solvent was removed and the product dried under vacuum. 1H NMR (400 MHz, DMSO) δ 13.27 (s, 1H), 7.81-7.33 (m, 2H), 2.37 (s, 6H), 2.34 (s, 3H).

reactant | 4-bromo-3-hydroxy-2-methylbenzoic acid | 21.6 mmol, 5 g | BrC1=C(C(=C(C(=O)O)C=C1)C)O | C8H7BrO3
reactant | NaOH | 108 mmol, 12 mL, 8.06 g | [OH-].[Na+]
reactant | Acetic anhydride | 21.6 mmol, 2.04 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | 12 mL | O | H2O
product | 3-Acetoxy-4-bromo-2-methylbenzoic acid | C(C)(=O)OC=1C(=C(C(=O)O)C=CC1Br)C | C10H9BrO4
